### PR TITLE
Erdős Problem 67: The Erdős discrepancy problem

### PR DESCRIPTION
**Pull request by mo271**

### CODE REVIEW

File: FormalConjectures/ErdosProblems/67.lean [hunk 1]
```diff
@@ -0,0 +1,55 @@
...
+
+/--
+**The Erdős discrepancy problem (complex variant)**
+
+If $f\colon \mathbb N \rightarrow S^1 ⊆ ℂ$ then is it true that for every $C>0$ there
+exist $d, m \ge 1$ such that $$\left\lvert \sum_{1\leq k\leq m}f(kd)\right\rvert > C?$$
+This is true, and was proved by Tao [Ta16]
+-/
+@[category research solved, AMS 11]
+theorem erdos_67.variants.complex (f : ℕ → ({c | ‖c‖ = 1} : Set ℂ)) (C : ℝ) (hC : 0 < C) :
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/67.lean]:
```suggestion
theorem erdos_67.variants.complex (f : ℕ → Metric.sphere (0 : ℂ) 1) (C : ℝ) (hC : 0 < C) :
```

File: FormalConjectures/ErdosProblems/67.lean [hunk 2]
```diff
@@ -0,0 +1,55 @@
...
+/--
+**The Erdős discrepancy problem**
+
+If $f\colon \mathbb N \rightarrow \{-1, +1\}$ then is it true that for every $C>0$ there
+exist $d, m \ge 1$ such that $$\left\lvert \sum_{1\leq k\leq m}f(kd)\right\rvert > C?$$
+This is true, and was proved by Tao [Ta16]
+-/
+@[category research solved, AMS 11]
+theorem erdos_67 (f : ℕ → ({-1, 1} : Finset ℝ)) (C : ℝ) (hC : 0 < C) : ∃ᵉ (d ≥ 1) (m ≥ 1),
+    C < |(∑ k ∈ Finset.Icc 1 m, (f (k * d)).1)| := by
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/67.lean]:
```suggestion
    C < |∑ k ∈ Finset.Icc 1 m, (f (k * d)).1| := by
```

File: FormalConjectures/ErdosProblems/67.lean [hunk 3]
```diff
@@ -0,0 +1,55 @@
...
+/--
+**The Erdős discrepancy problem (complex variant)**
+
+If $f\colon \mathbb N \rightarrow S^1 ⊆ ℂ$ then is it true that for every $C>0$ there
+exist $d, m \ge 1$ such that $$\left\lvert \sum_{1\leq k\leq m}f(kd)\right\rvert > C?$$
+This is true, and was proved by Tao [Ta16]
+-/
+@[category research solved, AMS 11]
+theorem erdos_67.variants.complex (f : ℕ → ({c | ‖c‖ = 1} : Set ℂ)) (C : ℝ) (hC : 0 < C) :
+    ∃ᵉ (d ≥ 1) (m ≥ 1), C < ‖(∑ k ∈ Finset.Icc 1 m, (f (k * d)).1)‖  := by
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/67.lean]:
```suggestion
    ∃ᵉ (d ≥ 1) (m ≥ 1), C < ‖∑ k ∈ Finset.Icc 1 m, (f (k * d)).1‖  := by
```
